US05041673
3-Amino-3,4-dihydro-2-(1H)-naphthalenone, hydrochloride
Under argon to a solution of trans-3 tert-butoxycarbonylamino-1,2,3,4-tetrahydro-2-naphthalenol (2.02 g) in methylene chloride (40 ml) was added pyridinium dichromate (4.3 g), molecular sieves 3A (6.3 g) and acetic acid (0.76 ml). After 1 hour stirring at room temperature the mixture was poured on a silica gel column (120 g, elution with ethyl acetate: cyclohexane, 1:3) to afford a crude material which was recrystallized from a diethyl ether/cyclohexane mixture to give the title compound (634 mg) as a white solid, m.p. 104°-105° C.

reactant | trans-3 tert-butoxycarbonylamino-1,2,3,4-tetrahydro-2-naphthalenol | 2.02 g | C(C)(C)(C)OC(=O)N[C@H]1[C@@H](CC2=CC=CC=C2C1)O | C15H21NO3
reactant | pyridinium dichromate | 4.3 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | acetic acid | 0.76 ml | C(C)(=O)O | C2H4O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | cyclohexane | C1CCCCC1 | C6H12
product | 3-Amino-3,4-dihydro-2-(1H)-naphthalenone, hydrochloride | 634 mg | Cl.NC1C(CC2=CC=CC=C2C1)=O | InChI=1S/C10H11NO.ClH/c11-9-5-7-3-1-2-4-8(7)6-10(9)12;/h1-4,9H,5-6,11H2;1H
